US07662830B2
5. 5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester
Heat a mixture of 5-chloro-6-{4-[2-chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester (1.19 g, 0.0025 mol) and 2-methylpyrrolidine (2.5 mL, 0.025 mol) in DMA at 120° C. for 14 h. Partition the reaction mixture between EtOAc and water. Wash the organic layer with water (1×) and brine (1×), then dry (Na2SO4) and concentrate under reduced pressure. Filter the crude product through a silica gel pad (2 inches deep×3 inches in diameter) eluting with 700 mL of 30% EtOAc/bexanes. Concentrate under reduced pressure to give the title compound as an off-white foam.

reactant | 5-chloro-6-{4-[2-chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | 0.0025 mol, 1.19 g | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)=O | C22H20Cl2FN5O2
reactant | 2-methylpyrrolidine | 0.025 mol, 2.5 mL | CC1NCCC1 | C5H11N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)Cl)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)=O | C27H30ClFN6O2
